US05514680
Preparation of 5-Amino-6,7-dichloro-1,4-dihydro-2,3-quinoxalinedione
To a stirred mixture of 5-nitro-6,7-dichloro-1,4-dihydro-2,3-quinoxalinedione (110 mg, 0.40 mMol) in ethanol (6 mL) was added SnCl2 ·2H2O (448 mg, 2.0 mMol) in one portion. The mixture was refluxed at 80° C. (oil bath 90° C.) with stirring for 1 h to form a clear solution and continually refluxed for another 3 h. The mixture was then cooled to room temperature and the yellow precipitate was collected by filtration and washed with cold ethanol (2×1 mL) to give 61 mg (62%) of crude title compound (contains minor impurities by NMR). Crystallization from DMSO/H2O gave 43 mg of pure title compound as bright yellow needles, mp>350° C. (dec.), changed color from 320° C. IR (KBr, cm-1): 3468; 3389; 3057; 1695; 1636; 1596; 1397. NMR (1H, DMSO-d6): δ5.935 (s, 2H); 6.595 (s, 1H); 11.317 (s, 1H); 11.868 (s, 1H). Purity>98.95% by HPLC. HRMS: calcd for C8H5N3O2Br2 (M+) m/z: 244.9757; found 244.9740. Potency relative to DCK: 323%.

reactant | 5-nitro-6,7-dichloro-1,4-dihydro-2,3-quinoxalinedione | 0.40 mMol, 110 mg | [N+](=O)([O-])C1=C2NC(C(NC2=CC(=C1Cl)Cl)=O)=O | C8H3Cl2N3O4
reactant | SnCl2 | Cl[Sn]Cl
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 5-Amino-6,7-dichloro-1,4-dihydro-2,3-quinoxalinedione | 43 mg | NC1=C2NC(C(NC2=CC(=C1Cl)Cl)=O)=O | C8H5Cl2N3O2
